US08084483B2
Lithium hydroxide solution (1M aqueous, 0.88 mL, 0.488 mmol) was added to a solution of 4 ethyl 2-(4-(4,7-dimethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate (0.15 g, 0.44 mmol) in THF/ethanol/water (1:1:1, 7 mL) and the mixture stirred for 2 h at room temperature. The crude reaction mixture was then concentrated, acidified with HCl (1M, 3 mL) and extracted with ethyl acetate (3×5 mL). The combined organics extracts were concentrated to afford 2-(4-(4,7-dimethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid as an off-white solid (0.129 g, 94%).

reactant | Lithium hydroxide | 0.488 mmol, 1M, 0.88 mL | [OH-].[Li+]
reactant | ethyl 2-(4-(4,7-dimethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 0.44 mmol, 0.15 g | CC1=CC=C(C2=CC(=CC=C12)C)N1C(=NN=C1)SCC(=O)OCC | C18H19N3O2S
solvent | THF ethanol water | 7 mL | C1CCOC1.C(C)O.O
product | 2-(4-(4,7-dimethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 0.129 g, 94% | CC1=CC=C(C2=CC(=CC=C12)C)N1C(=NN=C1)SCC(=O)O | C16H15N3O2S
